* D:\_Workspace\lvCurrent\SIM\Battery-SelfCheck\battery_selfcheck.asc
XU1 N007 N004 N001 0 N005 lmv331
R1 N001 N004 20k
R2 N004 0 10k
R§LDG N001 N005 330
Q1 N002 N006 0 0 BC847A
R§LDR N001 N002 330
V1 N003 0 PULSE(3.3 6 10u 100n 100n 10u)
V2 N007 0 1.225
R3 N006 N005 10k
L1 N001 N003 1n
C1 N001 0 1µ
C2 N003 0 100µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\pawel\Documents\LTspiceXVII\lib\cmp\standard.bjt
;dc V1 2 6
.tran 100u
.lib Sborka.lib
.backanno
.end
