* source CURRENTSENSOR
X_U1         N15300 N14875 N14919 N14931 N14943 OPA388
V_V2         N14919 0 2.5
V_V4         0 N14931 2.5
R_R1         0 N14875  2k TC=0,0 
R_R2         N14875 N14943  18k TC=0,0 
R_R3         0 N15062  10 TC=0,0 
R_R4         N15048 0  99.99k TC=0,0 
X_U2         N14943 N15589 N14919 N14931 N15607 OPA388
R_R5         N15589 N15607  18k TC=0,0 
R_R6         0 N15589  2k TC=0,0 
V_V5         N15062 N15048 DC 0Vdc AC 100m 
R_R7         N15062 N15300  330 TC=0,0 
C_C1         N15589 N15607  4.7p  TC=0,0 
C_C2         N14875 N14943  4.7p  TC=0,0 
C_C3         N14931 N15607  0.85p  TC=0,0 
C_C4         N15607 N14919  0.85p  TC=0,0 
C_C5         N15300 N14919  0.85p  TC=0,0 
C_C6         N14931 N15300  0.85p  TC=0,0 
